US05756532
(R)-2-(2-Allyloxy-5-chlorophenoxymethyl)-oxirane
To 4.0 g (79 mmole) of 60% sodium hydride/mineral oil dispersion in a one liter flask was added 300 ml of hexane. The mixture was swirled briefly, the solid allowed to settle and the supernatant liquid decanted. DMF (500 ml) was added, followed by a solution of 14.6 g (79 mmole) of 2-allyloxy-5-chlorophenol in 100 ml of DMF. The mixture was stirred at room temperature under nitrogen for 30 minutes, then 18.0 g (79 mmole) of (R)-glycidyl tosylate added. The mixture was heated under a nitrogen atmosphere at 80° C. for 24 hours. The solvent was evaporated in vacuum and replaced with 750 ml of methylene chloride. The solution was washed with 500 ml portions of 2N HCl (aq), saturated aqueous sodium bicarbonate, saturated brine, dried over sodium sulfate, filtered and evaporated in vacuum to give 20 g of a crude gum. This was column chromatographed on silica gel using methylene chloride as eluant to give 9.2 g of the title compound as a colorless oil. 1H (CDCl3) singlet, 6.93 δ(1 H); doublet, 6.90 δ(1 H); doublet, 6.80 δ(1 H);.multiplet, 6.05 δ(1 H); doublet, 5.40 δ(1 H); doublet, 5.25 δ(1 H); doublet, 4.55 δ(2 H); doublet of doublets, 4.25 δ(1 H); doublet of doublets, 3.97 δ(1 H); multiplet, 3.35 δ(1 H); triplet, 2.95 δ(2H); triplet, 2.75 δ(1 H).

reactant | sodium hydride | 79 mmole, 4.0 g | [H-].[Na+]
reactant | hexane | 300 ml | CCCCCC | C6H14
reactant | 2-allyloxy-5-chlorophenol | 79 mmole, 14.6 g | C(C=C)OC1=C(C=C(C=C1)Cl)O | C9H9ClO2
reactant | (R)-glycidyl tosylate | 79 mmole, 18.0 g | S(=O)(=O)(OC[C@H]1CO1)C1=CC=C(C)C=C1 | C10H12O4S
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | (R)-2-(2-Allyloxy-5-chlorophenoxymethyl)-oxirane | 9.2 g | C(C=C)OC1=C(OC[C@@H]2OC2)C=C(C=C1)Cl | C12H13ClO3
